US04808605
A solution of 2.32 g (0.005 mol) of [1S,2S]-6-fluoro-1,2,3,4-tetrahydro-1-isopropyl-2-[2-[methyl-[5-(1-methyl-2-benzimidazolyl)pentyl]amino]ethyl]-2-naphthalenol and 0.6 g (0 005 mol) of phenyl isocyanate in 5 ml of toluene is treated with 7.5 mg of tin(II) 2-ethylhexanoate and heated to 100° for 15 hours. After concentration under reduced pressure the oily residue is chromatographed on 160 g of silica gel with methanol/methylene chloride (3:2) as the elution agent. The oily product obtained is dissolved in methylene chloride and treated with an excess of hydrogen chloride in ether. There are obtained 2.15 g (65%) of [1S,2S]-6-fluoro-1,2,3,4-tetrahydro-1-isopropyl-2-[2-[methyl-[5-(1-methyl-2-benzimidazolyl)pentyl]amino]ethyl]-2-naphthyl carbanilate dihydrochloride, m.p. 157°-160°, as a colourless crystalline powder.

reactant | [1S,2S]-6-fluoro-1,2,3,4-tetrahydro-1-isopropyl-2-[2-[methyl-[5-(1-methyl-2-benzimidazolyl)pentyl]amino]ethyl]-2-naphthalenol | 0.005 mol, 2.32 g | FC=1C=C2CC[C@]([C@H](C2=CC1)C(C)C)(O)CCN(CCCCCC1=NC2=C(N1C)C=CC=C2)C | C29H40FN3O
reactant | phenyl isocyanate | 0.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
catalyst | tin(II) 2-ethylhexanoate | 7.5 mg | C(C)C(C(=O)[O-])CCCC.[Sn+2].C(C)C(C(=O)[O-])CCCC
product | [1S,2S]-6-fluoro-1,2,3,4-tetrahydro-1-isopropyl-2-[2-[methyl-[5-(1-methyl-2-benzimidazolyl)pentyl]amino]ethyl]-2-naphthyl carbanilate dihydrochloride | 2.15 g, 65% | Cl.Cl.C(NC1=CC=CC=C1)(O[C@]1([C@H](C2=CC=C(C=C2CC1)F)C(C)C)CCN(CCCCCC1=NC2=C(N1C)C=CC=C2)C)=O | InChI=1S/C36H45FN4O2.2ClH/c1-26(2)34-30-19-18-28(37)25-27(30)20-21-36(34,43-35(42)38-29-13-7-5-8-14-29)22-24-40(3)23-12-6-9-17-33-39-31-15-10-11-16-32(31)41(33)4;;/h5,7-8,10-11,13-16,18-19,25-26,34H,6,9,12,17,20-24H2,1-4H3,(H,38,42);2*1H/t34-,36-;;/m0../s1
